US07829724B2
(R)—N-(1-(4-(2-(1H-indol-3-yl)ethyl)-5-benzyl-4H-1,2,4-triazol-3-yl)-2-(1H-indol-3-yl)ethyl)-2-amino-2-methylpropanamide (Compound 111)
δ (ppm) 23.5 (CH3 Aib), 23.7 (CH3 Aib), 29.6 (CH2 βTrp), 30.3 (CH2-benzyl and CH2-CH2-indole), 44.1 (CH2—CH2-indole), 46.1 (CH αTrp), 56.8 (Cq Aib), 109.8 (C3 Trp), 109.9 (C3 indole), 111.9 (C7 indole and C7 Trp), 118.3 (C4 Trp), 118.4 (C4 indole), 118.9 (C5 indole and C5 Trp), 121.3 (C6 Trp), 121.5 (C6 indole), 123.7 (C2 indole), 124.7 (C2 Trp), 127.0 (C9 indole), 127.2 (C2 and C6 benzyl), 127.4 (C9 Trp), 128.8 (C3 and C5 benzyl), 129.0 (C4 benzyl), 136.3 (C1 benzyl), 136.4 (C8 indole and C8 Trp), 153.1 (Cq triazole), 155.3 (Cq triazole), 171.8 (CO Aib).

reactant | Aib | NC(C)(C)C(=O)O | C4H9NO2
reactant | Trp | N[C@@H](CC1=CNC2=CC=CC=C12)C(=O)O | C11H12N2O2
reactant | indole | N1C=CC2=CC=CC=C12 | C8H7N
reactant | triazole | N1N=NC=C1 | C2H3N3
product | (R)—N-(1-(4-(2-(1H-indol-3-yl)ethyl)-5-benzyl-4H-1,2,4-triazol-3-yl)-2-(1H-indol-3-yl)ethyl)-2-amino-2-methylpropanamide | N1C=C(C2=CC=CC=C12)CCN1C(=NN=C1CC1=CC=CC=C1)[C@@H](CC1=CNC2=CC=CC=C12)NC(C(C)(C)N)=O | C33H35N7O
